### PR TITLE
[Merged by Bors] - feat(NumberTheory/ArithmeticFunction/Defs): a finite product of multiplicative functions is multiplicative

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that a finite product of multiplicative functions is multiplicative.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean [hunk 1]
```diff
@@ -618,10 +618,21 @@ theorem eq_zero_of_squarefree_of_dvd_eq_zero [MonoidWithZero R] {f : ArithmeticF
...
+@[arith_mult]
+theorem isMultiplicative_finsetProd [CommSemiring R] {ι : Type*}
+    (f : ι → ArithmeticFunction R) (s : Finset ι) (hf : ∀ i ∈ s, IsMultiplicative (f i)) :
+    IsMultiplicative (∏ i ∈ s, f i) := by
+  classical
+  induction s using Finset.induction
+  case empty => simp
+  case insert a s ha ih =>
+    rw [Finset.prod_insert ha]
+    exact (hf a (s.mem_insert_self a)).mul (ih fun i hi ↦ hf i (Finset.mem_insert_of_mem hi))
```
Comment (b-mehta) [inline Mathlib/NumberTheory/ArithmeticFunction/Defs.lean]:
```suggestion
  induction s using Finset.cons_induction
  case empty => simp
  case cons a s ha ih =>
    rw [Finset.prod_cons]
    exact (hf a (by grind)).mul (by grind)
```
optional

**Review by b-mehta — COMMENTED** [review]
bors d+
